US06858638B2
5-Amino-N-tert-butoxycarbonyl-3-phenyl-1H-indazole can be obtained in the following way: 0.12 g of 10% palladium-on-charcoal and 0.68 g of ammonium formate are added to a solution of 0.8 g of N-tert-butoxycarbonyl-5-nitro-3-phenyl-1H-indazole and of 14 ml of methanol. The suspension is maintained with stirring for 18 hours at a temperature in the region of 20° C. 50 ml of distilled water are added to the reaction medium which is extracted with 50 ml and 25 ml of ethyl acetate. The organic phases are pooled, dried over magnesium sulfate, filtered, and concentrated by evaporation under reduced pressure. The residue obtained is purified by chromatography on a silica column with dichloromethane as eluent. 0.6 g of 5-amino-N-tert-butoxycarbonyl-3-phenyl-1H-indazole is thus obtained in the form of an off-white solid melting at 191° C.

reactant | ammonium formate | 0.68 g | C(=O)[O-].[NH4+]
reactant | N-tert-butoxycarbonyl-5-nitro-3-phenyl-1H-indazole | 0.8 g | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)[N+](=O)[O-])C1=CC=CC=C1 | C18H17N3O4
reactant | methanol | 14 ml | CO | CH4O
catalyst | palladium-on-charcoal | 0.12 g | [Pd] | Pd
solvent | water | 50 ml | O | H2O
product | 5-amino-N-tert-butoxycarbonyl-3-phenyl-1H-indazole | 0.6 g | NC=1C=C2C(=NN(C2=CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C18H19N3O2
